US09446130B2
To a solution of 1-methyl-6,7-dihydro-1H-indazole-4-carboxylate (7.5 g, 38.7 mmol) and NiCl2 (4.9 g, 38.7 mmol) in MeOH (250 mL) was added NaBH4 (14 g, 387 mmol) in portions at 0° C. The resulting mixture was stirred at room temperature for further 1 hour. The solvent was removed and the residue was purified by column chromatography on silica gel (PE/THF=5/1 v/v %) to afford methyl 1-methyl-4,5,6,7-tetrahydro-1H-indazole-4-carboxylate (7 g, 94%).

reactant | 1-methyl-6,7-dihydro-1H-indazole-4-carboxylate | 38.7 mmol, 7.5 g | CN1N=CC=2C(=CCCC12)C(=O)[O-]
reactant | NaBH4 | 387 mmol, 14 g | [BH4-].[Na+]
reactant | MeOH | 250 mL | CO | CH4O
catalyst | NiCl2 | 38.7 mmol, 4.9 g | Cl[Ni]Cl
product | methyl 1-methyl-4,5,6,7-tetrahydro-1H-indazole-4-carboxylate | 7 g, 94% | CN1N=CC=2C(CCCC12)C(=O)OC | C10H14N2O2
